US08563575B2
A mixture of tert-butyl 5-(2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate (900 mg), ethyl iodide (418 mg) and cesium carbonate (1.25 g) in DMF (10 mL) was stirred at 50° C. for 12 h, treated with water and extracted with EtOAc. The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was chromatographed on silica gel eluting with AcOEt/Hexane to give tert-butyl 5-(1-ethyl-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate (830 mg) as an amorphous solid.

reactant | tert-butyl 5-(2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate | 900 mg | O=C1NC=2C(=NC=CC2)N1C=1C=C2CCN(C2=CC1)C(=O)OC(C)(C)C | C19H20N4O3
reactant | ethyl iodide | 418 mg | C(C)I | C2H5I
reactant | cesium carbonate | 1.25 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(1-ethyl-2-oxo-1,2-dihydro-3H-imidazo[4,5-b]pyridin-3-yl)-2,3-dihydro-1H-indole-1-carboxylate | 830 mg | C(C)N1C(N(C2=NC=CC=C21)C=2C=C1CCN(C1=CC2)C(=O)OC(C)(C)C)=O | C21H24N4O3
